US08053442B2
The solution (0.2 M) of 6-chloro-5-fluoro-1H-indole-3-carbaldehyde (4.0 g, 20.24 mmol) in nitroethane (100 mL) was refluxed with ammonium acetate (1.32 g, 0.85 mmol) for 4 hours. The reaction mixture was concentrated under vacuum to remove nitroethane, diluted with ethylacetate and washed with brine. The organic layer was concentrated to give 6-chloro-5-fluoro-3-(2-nitro-propenyl)-1H-indole (5.0 g, 97%) as a reddish orange solid. 1H NMR (500 MHz, CDCl3): δ 8.77 (s, 1H), 8.32 (s, 1H), 7.58 (d, 1H, J=2.5 Hz), 7.54 (d, 1H, J=9 Hz), 7.50 (d, 1H, J=5.9 Hz), 2.52 (s, 3H).

reactant | 6-chloro-5-fluoro-1H-indole-3-carbaldehyde | 20.24 mmol, 0.2 M, 4.0 g | ClC1=C(C=C2C(=CNC2=C1)C=O)F | C9H5ClFNO
reactant | ammonium acetate | 0.85 mmol, 1.32 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 100 mL | [N+](=O)([O-])CC | C2H5NO2
product | 6-chloro-5-fluoro-3-(2-nitro-propenyl)-1H-indole | 5.0 g, 97% | ClC1=C(C=C2C(=CNC2=C1)C=C(C)[N+](=O)[O-])F | C11H8ClFN2O2
